US05977410
(10) Synthesis of N-[3-(4-trifluoromethoxyphenoxy)propyl]-2,6-difluorobenzamide (Compound (1-43))
A tetrahydrofuran (5 ml) solution of 2,6-difluorobenzoyl chloride (0.88 g) was added dropwise under ice-cooling and stirring to a tetrahydrofuran (20 ml) solution of 3-(4-trifluoromethoxyphenoxy)propylamine (1.18 g) and triethylamine (0.50 g) and the mixture was further stirred at room temperature for one hour.

reactant | tetrahydrofuran | 5 ml | O1CCCC1 | C4H8O
reactant | 2,6-difluorobenzoyl chloride | 0.88 g | FC1=C(C(=O)Cl)C(=CC=C1)F | C7H3ClF2O
reactant | tetrahydrofuran | 20 ml | O1CCCC1 | C4H8O
reactant | 3-(4-trifluoromethoxyphenoxy)propylamine | 1.18 g | FC(OC1=CC=C(OCCCN)C=C1)(F)F | C10H12F3NO2
solvent | triethylamine | 0.50 g | C(C)N(CC)CC | C6H15N
product | N-[3-(4-trifluoromethoxyphenoxy)propyl]-2,6-difluorobenzamide | FC(OC1=CC=C(OCCCNC(C2=C(C=CC=C2F)F)=O)C=C1)(F)F | C17H14F5NO3
